US09079888B2
Step (i): Preparation of 2-[4-(1-Cyclobutyl piperidin-4-yloxy)phenylamino]-1-(morpholin-4-yl)ethanone
A mixture of 4-(1-Cyclobutyl piperidin-4-yloxy)aniline (0.5 g, 0.002 moles), 2-Chloro-1-(morpholin-4-yl)ethanone (0.5 g, 0.003) and potassium carbonate (0.56 g, 0.004 moles) in dimethylformamide (25 ml) was stirred at reflux temperature. After completion of reaction, the mixture was concentrated under reduced pressure and the residue was partitioned between ethyl acetate (250 mL) and water (250 mL). The combined organic layers were washed with brine solution, dried over sodium sulfate and concentrated under reduced pressure. The crude compound was purified by flash chromatography (chloroform: triethylamine, 9.5:0.5) to obtain the title compound 0.3 g (Yield: 40%).

reactant | 4-(1-Cyclobutyl piperidin-4-yloxy)aniline | 0.002 moles, 0.5 g | C1(CCC1)N1CCC(CC1)OC1=CC=C(N)C=C1 | C15H22N2O
reactant | 2-Chloro-1-(morpholin-4-yl)ethanone | 0.5 g | ClCC(=O)N1CCOCC1 | C6H10ClNO2
reactant | potassium carbonate | 0.004 moles, 0.56 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 2-[4-(1-Cyclobutyl piperidin-4-yloxy)phenylamino]-1-(morpholin-4-yl)ethanone | 0.3 g, Yield: 40% | C1(CCC1)N1CCC(CC1)OC1=CC=C(C=C1)NCC(=O)N1CCOCC1 | C21H31N3O3
